US07893060B2
[1-(5-Chloro-7-morpholin-4-ylthiazolo[4,5-d]pyrimidin-2-yl-methyl)-piperidin-4-yl]dimethylamine
Prepared according to the method used in the preparation of 5-(5-chloro-7-morpholin-4-ylthiazolo[4,5-d]pyrimidin-2-ylmethyl)-hexahydro-pyrrolo[3,4-c]pyrrole-2-carboxylic acid tert-butyl ester using dimethylpiperidin-4-ylamine in place of hexahydro-pyrrolo[3,4-c]pyrrole-2-carboxylic acid tert-butyl ester. The title compound was obtained as an orange solid (244 mg, 40%).

reactant | 5-(5-chloro-7-morpholin-4-ylthiazolo[4,5-d]pyrimidin-2-ylmethyl)-hexahydro-pyrrolo[3,4-c]pyrrole-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2CN(CC2C1)CC=1SC2=C(N=C(N=C2N2CCOCC2)Cl)N1 | C21H29ClN6O3S
reactant | dimethylpiperidin-4-ylamine | CN(C1CCNCC1)C | C7H16N2
product | [1-(5-Chloro-7-morpholin-4-ylthiazolo[4,5-d]pyrimidin-2-yl-methyl)-piperidin-4-yl]dimethylamine | ClC=1N=C(C2=C(N1)N=C(S2)CN2CCC(CC2)N(C)C)N2CCOCC2 | C17H25ClN6OS
